US07462624B2
Step B: 2-chloro-6-hydrazino-9-(tetrahydro-2H-pyran-2-yl)-9H-purine
To a suspension of 2,6-dichloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purine (5 g, 20 mmol) in 1-butanol (75 mL) was added hydrazine hydrate (2.0 ml, 40 mmol) at room temperature. The mixture was stirred at 80° C. for 4 hours. The reaction mixture was concentrated under reduced pressure to give the desired product. LCMS calculated for C10H14ClN6O (M+H): 269.1; found: 269.0.

reactant | 2,6-dichloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | 20 mmol, 5 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)Cl | C10H10Cl2N4O
reactant | hydrazine hydrate | 40 mmol, 2.0 ml | O.NN
solvent | 1-butanol | 75 mL | C(CCC)O | C4H10O
product | 2-chloro-6-hydrazino-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)NN | C10H13ClN6O
